US07179823B1
A toluene solution (5.66 g) of 40% diethyl azodicarboxylate was added dropwise slowly to a mixture of ethyl 3-[1-(4-hydroxybenzyl)-4-phenyl-3-pyrrolyl]propionate (2.84 g), 2-(5-methyl-2-phenyl-4-oxazolyl)ethanol (2.48 g), triphenylphosphine (3.31 g) and tetrahydrofuran (25 ml) at room temperature. After the above solution was stirred at room temperature for 2 hours, the reaction solvent was removed under reduced pressure. The residue was subjected to silica gel column chromatography, and an oily substance was obtained from the fraction eluted with ethyl acetate-hexane (1:4, volume ratio). A mixture of the oily substance obtained, 1N aqueous sodium hydroxide solution (15 ml), tetrahydrofuran (15 ml) and ethanol (15 ml) was stirred at room temperature for 3 hours and the organic solvent was removed under reduced pressure. After adding water, the residue was acidified by adding 1N hydrochloric acid. The colorless crystals obtained were collected by filtration to yield 3-[1-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl]-4-phenyl-3-pyrrolyl]propionic acid (2.72 g, yield: 57%). This was recrystallized from ethanol-water. Melting point: 147–148° C.

reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | ethyl 3-[1-(4-hydroxybenzyl)-4-phenyl-3-pyrrolyl]propionate | 2.84 g | OC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)OCC)C=C1 | C22H23NO3
reactant | 2-(5-methyl-2-phenyl-4-oxazolyl)ethanol | 2.48 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCO | C12H13NO2
reactant | triphenylphosphine | 3.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium hydroxide | 1N, 15 ml | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | toluene | 5.66 g | C1(=CC=CC=C1)C | C7H8
product | 3-[1-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzyl]-4-phenyl-3-pyrrolyl]propionic acid | 2.72 g, yield: 57% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)CCC(=O)O)C=C1 | C32H30N2O4
